US05104895
In an inert gas atmosphere and at room temperature, diethyl malonate (1.73 ml) is added dropwise to a solution of sodium ethoxide (0.77 g) in ethanol (25 ml). After warming at 50° C. for 1 hour, a solution of bromo-3,6,9-trioxadecane (2.6 g) in absolute ethanol (8 ml) is added and warming is prosecuted for an additional hour. A second portion of sodium ethoxide (0.77 g) is added and after additional warming for 1 hour at 50° C., the mixture is treated with an additional portion of a solution f 1-bromo-3,6,9-trioxadecane (2.6 g) in absolute ethanol (8 ml); finally, warming is prosecuted for four hours at 60° C. After removal of the solvent under vacuum, the residue is partitioned between chloroform (40 ml) and brine (10 ml). The organic phase is separated; the aqueous phase is extracted several times with chloroform. The combined organic extracts are dried and the solvent is removed under vacuum. Purification of the oily residue by column chromatography (SiO2 ; hexane/ethyl acetate 4:1 ethyl acetate) affords 2.21 g of diethyl-2,2-bis(3,6,9-trioxadecane-1-yl)malonate an uncoloured liquid. LiOH monohydrate (0.7 g) is added to aqueous solution of the ester (30 ml). The mixture is heated at 80° C. for three hours, cooled at room temperature and extracted with ethyl acetate (2×4 ml) to remove impurities. The aqueous phase is acidified at pH 1.8 with 2N H2SO4 and after NaCl addition is extracted with CHCl3. The combined chloroform extracts are dried over Na2SO4 ; removal of the solvent yields 1.4 g of 2,2-bis(3,6,9-trioxadecane- 1-yl)malonic acid, as a limpid oil. I.R. (liquid film=3600-2200 cm-1 ; 1227 cm-1 ; 1203 cm-1. By reaction of a suitable polyoxyethylenehalide with a dialkylmalonate and by final hydrolysis with lithium hydroxide the following acids:

reactant | diethyl malonate | 1.73 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | 0.77 g | [O-]CC.[Na+]
reactant | bromo-3,6,9-trioxadecane | 2.6 g | BrCCOCCOCCOC | C7H15BrO3
reactant | sodium ethoxide | 0.77 g | [O-]CC.[Na+]
reactant | 1-bromo-3,6,9-trioxadecane | 2.6 g | BrCCOCCOCCOC | C7H15BrO3
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | diethyl-2,2-bis(3,6,9-trioxadecane-1-yl)malonate | 2.21 g | C(C)OC(C(C(=O)OCC)(CCOCCOCCOC)CCOCCOCCOC)=O | C21H40O10
